US08008488B2
16.1 1-(4-Chlorobutyl)-5-fluoropyrimidine-2,4(1H,3H)-dione
2.6 g (15.0 mmol) of 1-bromo-4-chlorobutane were added dropwise to a solution of 1.95 g (15.0 mmol) of 2,4-dihydroxy-5-fluoropyrimidine in 50 ml of dimethyl sulfoxide and 20.0 ml of N,N-dimethylformamide (DMF) at 0° C. 2.07 g (15.0 mmol) of K2CO3 were added in portions over the course of 1 hour, and the mixture was stirred at 20° C. for 1 hour (dialkylated product is already identifiable). Water was then added to the reaction mixture, and the aqueous mixture was extracted twice with diethyl ether and twice with methylene chloride. The aqueous phase was adjusted to pH 3-4 with hydrochloric acid and then the aqueous phase was extracted with methylene chloride. The organic phase was then dried, the desiccant was removed by filtration, and the solvent was evaporated to dryness in vacuo; yield: 0.6 g. 1-(4-Chlorobutyl)-5-fluoropyrimidine-2,4(1H,3H)-dione was employed without further purification in the next step.

reactant | 1-bromo-4-chlorobutane | 15.0 mmol, 2.6 g | BrCCCCCl | C4H8BrCl
reactant | 2,4-dihydroxy-5-fluoropyrimidine | 15.0 mmol, 1.95 g | OC1=NC=C(C(=N1)O)F | C4H3FN2O2
reactant | K2CO3 | 15.0 mmol, 2.07 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
solvent | N,N-dimethylformamide | 20.0 ml | CN(C=O)C | C3H7NO
product | 1-(4-Chlorobutyl)-5-fluoropyrimidine-2,4(1H,3H)-dione | ClCCCCN1C(NC(C(=C1)F)=O)=O | C8H10ClFN2O2
